US05334765
p. (RS)-4,4,4-Trifluoro-2-methyl-N-[(S)-1-phenylethyl]butyramide
A solution of 2-methyl-4,4,4-trifluorobutanoic acid (10.0 g, 0.064 mole) in dichloromethane (150 mL) was treated with 4-(N,N-dimethylamino)-pyridine (7.8 g, 0.064 mole), and the mixture was stirred for 15 min. A solution containing (S)-1-phenylethylamine (7.8 g, 0.064 mole) in dichloromethane (50 mL) was added, the mixture was stirred for a further 15 min, and then a solution of dicyclohexylcarbodiimide (15.9 g, 0.077 mole) in dichloromethane (100 mL) was added. Stirring was continued for 15 hours, then the precipitated dicyclohexylurea was removed by filtration, and the filtrate was concentrated to an oil under reduced pressure. The oil was partitioned between 2N hydrochloric acid (100 mL) and ether (100 mL), and the two phase mixture was filtered to remove a further quantity of dicyclohexylurea. The layers were separated; and the ether fraction was washed with 2N hydrochloric acid (100 mL), 2N aqueous sodium hydroxide solution (100 mL) and saturated brine (100 mL); dried (MgSO4); and evaporated to an oil, which solidified on standing. The solid, which comprised a mixture of the two diastereomeric butyramides was used directly in the next step.

reactant | 2-methyl-4,4,4-trifluorobutanoic acid | 0.064 mole, 10.0 g | CC(C(=O)O)CC(F)(F)F | C5H7F3O2
reactant | (S)-1-phenylethylamine | 0.064 mole, 7.8 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
reactant | dicyclohexylcarbodiimide | 0.077 mole, 15.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)-pyridine | 0.064 mole, 7.8 g | CN(C)C1=CC=NC=C1 | C7H10N2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | (RS)-4,4,4-Trifluoro-2-methyl-N-[(S)-1-phenylethyl]butyramide | FC(CC(C(=O)N[C@@H](C)C1=CC=CC=C1)C)(F)F | C13H16F3NO
